### PR TITLE
feat(BKLNW_app): prove `bklnw_cor_15_1'`

### LINKED ISSUE #775: [BKLNW-APP]: Concluding an error bound on psi(x) for medium x (Corollary 15.1, alternate version)
## Description

Straightforward combination of previous results.

## Blueprint

[Corollary 8.4.2](https://alexkontorovich.github.io/PrimeNumberTheoremAnd/blueprint/primary-chapter.html#bklnw-cor_15_1_alt)

## Zulip

[Link](https://leanprover.zulipchat.com/#narrow/channel/423402-PrimeNumberTheorem.2B/topic/Appendix.20A.20of.20BKLNW/with/569637294)

### PR DESCRIPTION
**Pull request by pitmonticone**
This PR adds a proof autoformalised by @Aristotle-Harmonic with minor manual golfing.

Co-authored-by: Aristotle (Harmonic) [aristotle-harmonic@harmonic.fun](mailto:aristotle-harmonic@harmonic.fun).

Closes #775

### CODE REVIEW

File: PrimeNumberTheoremAnd/BKLNW_app.lean [hunk 1]
```diff
@@ -379,16 +379,42 @@ theorem theorem_2 : ∀ b ≥ 0, ∀ x ≥ exp b,
...
+        if_neg (not_lt.mpr (by linarith : (21 : ℝ) ≤ 19 * log 10)),
+        if_neg (not_lt.mpr (by linarith : (22 : ℝ) ≤ 19 * log 10)),
+        if_neg (not_lt.mpr (by linarith : (23 : ℝ) ≤ 19 * log 10)),
+        if_neg (not_lt.mpr (by linarith : (24 : ℝ) ≤ 19 * log 10)),
+        if_neg (not_lt.mpr (by linarith : (25 : ℝ) ≤ 19 * log 10)),
+        if_neg (not_lt.mpr (by linarith : (30 : ℝ) ≤ 19 * log 10)),
+        if_neg (not_lt.mpr (by linarith : (35 : ℝ) ≤ 19 * log 10)),
+        if_neg (not_lt.mpr (by linarith : (40 : ℝ) ≤ 19 * log 10)),
+        if_pos (by linarith : 19 * log 10 < 45)]
+  exact h1.trans (max_le_max_left _ h3)
```
Comment (llllvvuu) [inline PrimeNumberTheoremAnd/BKLNW_app.lean:418]: Aristotle golfs followed by my own

```suggestion
    ∀ x ≥ exp b, Eψ x ≤ max (0.94 / exp (b / 2)) 1.93378e-8 := by
  intro x hx
  grw [bklnw_cor_15_1 b hb1 hb2 table_8_ε (fun b₀ hb₀ x hx ↦ by
    grw [Eψ, div_le_iff₀ (lt_of_lt_of_le (by positivity) hx), theorem_2 b₀ hb₀.le x hx]) x hx]
  apply max_le_max_left
  suffices 43 < 19 * Real.log 10 ∧ 19 * Real.log 10 < 44 by grind only [table_8_ε]
  rw [← log_rpow (by positivity), lt_log_iff_exp_lt (by positivity),
    log_lt_iff_lt_exp (by positivity), ← exp_one_rpow 43, ← exp_one_rpow 44]
  exact ⟨by grw [Real.exp_one_lt_d9]; norm_num, by grw [← Real.exp_one_gt_d9]; norm_num⟩
```
